US07229999B2
5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(3-methoxy-propoxy)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 11, using 5-bromo-6-chloro-nicotinic acid methylester, 3-methoxy-propanol (commercially available), 4-chlorophenyl-boronic acid (commercially available) and 1-amino-2-cyclopropyl-propan-2-ol (commercially available) as starting materials. MS (m/e): 419 (MH+).

reactant | 5-bromo-6-chloro-nicotinic acid methylester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | 3-methoxy-propanol | COCCCO | C4H10O2
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 1-amino-2-cyclopropyl-propan-2-ol | NCC(C)(O)C1CC1 | C6H13NO
product | 5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(3-methoxy-propoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC(C)(O)C2CC2)C1)OCCCOC | C22H27ClN2O4
